US07906517B2
C-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-yl)-methylamine (1.54 g) is dissolved in toluene (25 ml), and thereto are added tert-butyl 4-(2-chloro-pyrimidin-5-yloxy)-butyrate (1.96 g), palladium acetate (II) (195 mg), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (543 mg), tetra-n-butyl ammonium iodide (359 mg) and sodium tert-butoxide (560 mg), and the mixture is stirred under nitrogen flow at 85° C. overnight. The reaction solution is allowed to cool to room temperature, and thereto is added a saturated brine, and the mixture is extracted with ethyl acetate, and the organic layer is dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=47:3→3:1) to give tert-butyl 4-{2-[(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate (895 mg). MS (m/z): 560 [M+H]+

reactant | C-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-yl)-methylamine | 1.54 g | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN)OC | C18H20F3NO
reactant | tert-butyl 4-(2-chloro-pyrimidin-5-yloxy)-butyrate | 1.96 g | ClC1=NC=C(C=N1)OCCCC(=O)OC(C)(C)C | C12H17ClN2O3
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 543 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 560 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butyl ammonium iodide | 359 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | brine | [Cl-].[Na+].O
catalyst | palladium acetate | 195 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl 4-{2-[(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate | 895 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNC1=NC=C(C=N1)OCCCC(=O)OC(C)(C)C)OC | C30H36F3N3O4
